US07410976B2
4,8-Dimethoxy-2-({6-[(methoxycarbonyl)amino]-4-oxospiro[chroman-2,4′-piperidin]-1′-yl}carbonyl)quinoline hydrochloride
The free form of the compound was prepared according to the procedure described in Example 30 but using 6-amino-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one and methyl chloroformate instead of 6-(piperazin-1-yl)-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one and Ac2O. Then the material was converted to HCl salt according to the procedure described in Example 2. 1H-NMR (400 MHz, DMSO-d6) δ: 9.65 (1H, s), 7.84 (1H, s), 7.73-7.53 (3H, m), 7.36-7.25 (2H, m), 7.06 (1H, d, J=9.0 Hz), 4.34-4.18 (1H, m), 4.10 (3H, s), 3.97 (3H, s), 3.69-3.26 (3H, m), 3.64 (3H, s), 2.86 (2H, s), 2.10-1.71 (4H, m). MS [M+H]+=506.

reactant | 6-amino-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one | NC=1C=C2C(CC3(CCN(CC3)C(=O)C3=NC4=C(C=CC=C4C(=C3)OC)OC)OC2=CC1)=O | C25H25N3O5
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | Ac2O | CC(=O)OC(=O)C | C4H6O3
reactant | HCl | Cl | ClH
product | 4,8-Dimethoxy-2-({6-[(methoxycarbonyl)amino]-4-oxospiro[chroman-2,4′-piperidin]-1′-yl}carbonyl)quinoline hydrochloride | Cl.COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)NC(=O)OC | InChI=1S/C27H27N3O7.ClH/c1-34-22-6-4-5-17-23(35-2)14-19(29-24(17)22)25(32)30-11-9-27(10-12-30)15-20(31)18-13-16(28-26(33)36-3)7-8-21(18)37-27;/h4-8,13-14H,9-12,15H2,1-3H3,(H,28,33);1H
